US05552558
C. N-((4-Isopropyl-2-thiazolyl)methoxycarbonyl)valine Methyl Ester.
A solution of 1.4 mmol of α-isocyanato-valine methyl ester and 0.22 g (1.4 mmol) of 2-(hydroxymethyl)-4-isopropylthiazole in 10 ml of chloroform was heated at reflux for 3 h. After being allowed to cool, the solvent was removed in vacuo, and the residue was purified by silica gel chromatography using 2% methanol in chloroform to provide 0.23 g (52%) of the desired compound (Rf 0.54, 5% methanol in dichloromethane). NMR 1H NMR (DMSO-d6)δ0.87 (d, J=7 Hz, 3H), 0.88 (d, J=7 Hz, 3H), 1.23 (d, J=7 Hz, 6H), 2.04 (octet, J=7 Hz, 1H), 3.01 (heptet, J=7 Hz, 1H), 3.73 (s, 3H), H), 3.94 (dd, J=8, 6 Hz, 1H), 5.26 (AA', 2H), 7.28 (s, 1H), 7.92 (d, J=8 Hz, 1H). Mass spectrum: (M+H)+ =315.

reactant | α-isocyanato-valine methyl ester | 1.4 mmol | COC([C@@](N)(C(C)C)N=C=O)=O | C7H12N2O3
reactant | 2-(hydroxymethyl)-4-isopropylthiazole | 1.4 mmol, 0.22 g | OCC=1SC=C(N1)C(C)C | C7H11NOS
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-((4-Isopropyl-2-thiazolyl)methoxycarbonyl)valine Methyl Ester | 0.23 g | COC([C@@H](NC(=O)OCC=1SC=C(N1)C(C)C)C(C)C)=O | C14H22N2O4S
